US04648896
27.0 g of 4,6-dichloro-5-nitro-2-phenylpyrimidine are hydrogenated in ether acetate at room temperature by treatment with Raney nickel. The catalyst is afterwards separated and the reaction solution is concentrated by evaporation. Crystallisation of the residue from petroleum ether then yields 17.4 g of 5-amino-4,6-dichloro-2-phenylpyrimidine, m.p. 143°-144° C. (compound No. 1).

reactant | 4,6-dichloro-5-nitro-2-phenylpyrimidine | 27.0 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C1=CC=CC=C1 | C10H5Cl2N3O2
solvent | ether acetate | CCOCC.C(C)(=O)[O-]
catalyst | Raney nickel | [Ni] | Ni
product | 5-amino-4,6-dichloro-2-phenylpyrimidine | 17.4 g | NC=1C(=NC(=NC1Cl)C1=CC=CC=C1)Cl | C10H7Cl2N3
